US07247633B2
2-(n-Hexyloxy)-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-(n-hexyloxy)pyrazine (1.54 g, 7.17 mmol; obtained according to the procedure of example 50, step 1, starting from n-hexanol), piperazine (1.90 g, 22.1 mmol) and K2CO3 (0.99 g, 7.16 mmol). The yield of the title compound was 1.21 g (64%) which was obtained as a colorless oil. HRMS m/z calcd for C14H24N4O (M)+ 264.1950, found 264.1953. Anal. (C14H24N4O) C, H, N.

reactant | 2-chloro-6-(n-hexyloxy)pyrazine | ClC1=NC(=CN=C1)OCCCCCC | C10H15ClN2O
reactant | n-hexanol | C(CCCCC)O | C6H14O
reactant | piperazine | 22.1 mmol, 1.90 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 7.16 mmol, 0.99 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-(n-Hexyloxy)-6-(1-piperazinyl)pyrazine | C(CCCCC)OC1=NC(=CN=C1)N1CCNCC1 | C14H24N4O
